* AVMID buffer rev D dual-feedback (MR-11)
VDD vdd 0 3.3
VREF inp 0 1.65

* op-amp OA: G-C dominant pole (Aol 1e6, fp 10 Hz -> GBW 10 MHz) + output R
GOA 0 OAx inp inn 1
ROAp OAx 0 1meg
COAp OAx 0 15.9n
EOA OAo 0 OAx 0 1
ROAo OAo opo 150

RAVI opo avmid 4.7
CAVO avmid 0 10u ic=1.65
RAVF avmid inn 10k
CAVF opo inn 2.2n
* clamp-event surrogate: 5 mA load pulse into AVMID at t=1ms for 200us
IL avmid 0 PULSE(0 5m 1m 1u 1u 200u 10m)
.tran 0.2u 4m 0 0.1u uic
.option method=gear reltol=1e-4 abstol=1e-9
.control
set filetype=ascii
run
wrdata ctfe-avmid-revD.out v(avmid) v(opo)
quit
.endc
.end